US08003806B2
(3R)-3-{5-[(Anilinocarbonyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
A solution of methyl (3R)-3-{5-[(anilinocarbonyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate (204 mg, 492 μmol) in a mixture of tetrahydrofuran (2 mL), acetonitrile (20 mL) and hydrochloric acid (50 mL of a 5N solution) was stirred at room temperature for 110 hours. The solution was evaporated in vacuo to afford the title compound, [LCMS (Method C, Mobile Phase I) RT=2.25 min, MH+ 401.34].

reactant | methyl (3R)-3-{5-[(anilinocarbonyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | 492 μmol, 204 mg | N(C1=CC=CC=C1)C(=O)NC1=CC2=C(N(C=N2)[C@H](CC(=O)OC)C2=CC=CC=C2)C=C1 | C24H22N4O3
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (3R)-3-{5-[(Anilinocarbonyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | N(C1=CC=CC=C1)C(=O)NC1=CC2=C(N(C=N2)[C@H](CC(=O)O)C2=CC=CC=C2)C=C1 | C23H20N4O3
